US06653346B1
To a solution of 1-[6,7-dimethyl-5-(tetrahydro-pyran-2-yloxy)-benzofuran-2-yl]-ethanone (200 mg) in chloroform (20 mL) was added bromine (120 mg). After 1 h, the solution was washed with water and dried over MgSO4 and concentrated. The residue was purified by silica gel column eluting with 10% hexane in DCM to give 1-(3-Bromo-5-hydroxy-6,7-dimethyl-benzofuran-2-yl)-ethanone, as a yellow solid. 1H NMR (CDCl3, 300 MHz) δ: 7.38 (s, 1H), 5.55 (s, 1H, OH), 2.60, 2.50, 2.31 (3s, 9H) ppm. MS (m/z): 283, 285 (M+H+).

reactant | 1-[6,7-dimethyl-5-(tetrahydro-pyran-2-yloxy)-benzofuran-2-yl]-ethanone | 200 mg | CC1=C(C2=C(C=C(O2)C(C)=O)C=C1OC1OCCCC1)C | C17H20O4
reactant | bromine | 120 mg | BrBr | Br2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Bromo-5-hydroxy-6,7-dimethyl-benzofuran-2-yl)-ethanone | BrC1=C(OC2=C1C=C(C(=C2C)C)O)C(C)=O | C12H11BrO3
